US07781431B2
Step 9: methyl 4-(tert-butoxycarbonyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.2 M) of 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid in DCM was treated with Boc2O (1.1 eq.), Et3N (1.1 eq.) and DMAP (0.1 eq.). The solution was stirred at RT for 24 h. The mixture was diluted with AcOEt then washed sequentially with aqueous HCl (1 N), aqueous NaHCO3 (saturated solution) and brine. The organic phase was separated and dried the concentrated to give a solid that was dissolved in MeOH. The resulting solution (0.2 M) was cooled to 0° C. then treated with trimethylsilyldiazomethane (5 eq.). The reaction was stirred at RT for 18 h. Evaporation of the solvent gave a residue that was purified by flash chromatography on silica gel (1:5 AcOEt/petroleum ether) to afford the title compound (63%) as a solid.

reactant | 6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylic acid | 0.2 M | C1(CCCCC1)C=1C2=C(NC1)C=C(S2)C(=O)O | C13H15NO2S
reactant | Boc2O | 1.1 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 1.1 eq. | CCN(CC)CC | C6H15N
reactant | trimethylsilyldiazomethane | 5 eq. | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | methyl 4-(tert-butoxycarbonyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 63% | C(C)(C)(C)OC(=O)N1C2=C(C(=C1)C1CCCCC1)SC(=C2)C(=O)OC | C19H25NO4S
